US07001902B2
5.2 N-[2-(1,4-Diazabicyclo[3.2.2]non-4-yl)-2-oxoethyl]-3-bromobenzamide
0.77 g (3 mmol) of N-(3-bromobenzoyl)glycine dissolved in 30 ml of dioxane is placed in a 100 ml round-bottomed flask, 0.68 g (3.3 mmol) of dicyclohexylcarbodiimide is added and the mixture is stirred at room temperature for 30 minutes, 0.38 g (3 mmol) of 1,4-diazabicyclo[3.2.2]nonane is added and the mixture is stirred for a further two hours. 30 ml of water are added and the precipitate formed is filtered off, the filtrate is extracted with chloroform and the organic phase is then extracted with aqueous 0.1N hydrochloric acid solution. The aqueous extraction phase is basified to pH 10 by addition of concentrated aqueous sodium hydroxide solution and extracted with chloroform. The organic phase is dried over sodium sulfate and concentrated under reduced pressure.

reactant | N-(3-bromobenzoyl)glycine | 3 mmol, 0.77 g | BrC=1C=C(C(=O)NCC(=O)O)C=CC1 | C9H8BrNO3
reactant | dicyclohexylcarbodiimide | 3.3 mmol, 0.68 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1,4-diazabicyclo[3.2.2]nonane | 3 mmol, 0.38 g | N12CCNC(CC1)CC2 | C7H14N2
reactant | water | 30 ml | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | N-[2-(1,4-Diazabicyclo[3.2.2]non-4-yl)-2-oxoethyl]-3-bromobenzamide | N12CCN(C(CC1)CC2)C(CNC(C2=CC(=CC=C2)Br)=O)=O | C16H20BrN3O2
